Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, headache.
 
Major Surgical or Invasive Procedure:
___: Diagnostic angiogram.
 
History of Present Illness:
Mr. ___ is an ___ year old male with a known fusiform aneurysmal 
dilation of the left intracranial paraclinoid/supraclinoid ICA. 
The patient has been followed at ___ for this 
aneurysm since he was ___ years old
as it was found on an incidental finding. The patient has had 
repeat imaging which has showed a stable size in the fusiform 
aneurysmal dilation. The patient reports that he has had 
increased dizziness, difficulty focusing and left sided pressure 
in head and neck. He has been to the ED 3 times in the past 
month
with worsening symptoms and reports at times he "blacks out" and 
has had near syncopal events. The patient also reports left 
sided chest pain and occasional shortness of breath. On ROS he 
denies diplopia, fevers or chills. 
 
Past Medical History:
fusiform aneurysmal dilation of the left intracranial 
paraclinoid/supraclinoid ICA.
 
Social History:
___
Family History:
No history of aneurysms. 

 
Physical Exam:
=============
ON DISCHARGE
=============
PHYSICAL EXAM:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  3-2mm bilaterally.  EOMs intact throughout.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch bilaterally.

Toes downgoing bilaterally.

Groin site: clean, dry and intact. No hematoma. 

 
Pertinent Results:
============
IMAGING
============
___ CAROTID/CEREBRAL UNILAT
1. A long-standing fusiform dilation of the distal left internal 
carotid 
artery.  This appears to be stable based on previous reports 
from ___.  No aneurysmal abnormalities 
identified. 

___ FEMORAL ULTRASOUND
  No evidence of hematoma or pseudoaneurysm in the right groin. 

 
Brief Hospital Course:
On ___, the patient presented to the ED with complaints of 
increased dizziness, difficulty focusion and left sided headache 
and neck pain and syncopal/near-syncopal episodes.  He has had 
multiple ED visits for similar complaints.  

On ___, Given his history of left intracranial 
paraclinoid/supraclinoid ICA aneurysm, he was taken for 
diagnostic angiogram which did not reveal an aneurysm, but a 
normal ICA variant. Neurology and medicine were consulted for 
evaluation of his headaches and syncopal episodes.  Overnight, 
he experienced groin pain and a femoral ultrasound was ordered 
which was negative for hematoma or pseudoaneurysm in the right 
groin.

On ___, the patient remained neurologically intact. He was 
ambulating independently, tolerating a diet, and voiding without 
difficulty. His pain was well-controlled. It was determined he 
would be discharged to home with instructions to follow-up with 
his primary care physician ___ 5-days. The medicine consult 
team was consulted and stated that at this time no further 
inpatient testing is required and would recommend outpatient 
follow-up with PCP for evaluation of panic
disorder versus cardiac monitoring. 

 
Medications on Admission:
None.
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
Do not exceed greater than 4g Acetaminophen in a 24-hour period. 
 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6 hours 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had a diagnostic cerebral angiogram on ___. You found to 
have a normal variant of the ICA. 

Activity:
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site:
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit.
• Constipation.
• Blood in your stool or urine.
• Nausea and/or vomiting.
• Extreme sleepiness and not being able to stay awake.
• Severe headaches not relieved by pain relievers.
• Seizures.
• Any new problems with your vision or ability to speak.
• Weakness or changes in sensation in your face, arms, or leg.

 
Followup Instructions:
___